* C:\Users\frwalsh\OneDrive - Tesla\Documents\GitHub\AUV-Senior-Design\Frank\chum-bucket\Sims\Draft1.asc
L1 sw N002 4.7µ Ipk=8.5 Rser=18.4m
V1 input N001 18V Rser=0.1
XU1 input_meas input_meas top_gate NC_01 bot_gate sw sw sw 0 csd87331q3d
V2 top_gate 0 PULSE(0 22.2 0 50p 50p 0.83u 1.66u)
V3 bot_gate 0 PULSE(0 22.2 0.845u 50p 50p 0.80u 1.66u)
I1 output 0 8
C4 input_meas 0 8.7µ Rser=4.35m
R1 output N002 0.01 pwr=4
V4 N001 0 SINE(0 0.2 60) Rser=0.1
C1 input 0 100µ V=50 Irms=475m
C2 input_meas 0 8.7µ Rser=4.35m
C3 input_meas 0 8.7µ Rser=4.35m
R2 input input_meas 0.01 pwr=4
C5 output 0 9.5µ Rser=4.35m
C6 output 0 9.5µ Rser=4.35m
.lib CSD87331Q3D.lib
.tran 0 1m 0
* Switching frequency is 600kHz with\ndead time of 30ns
* Worst case ripple occurs closest to 50% duty cycle.\nMin duty for our application is 18V to min battery voltage of 9.6 V (3.2Vx3)\nThis gives duty of 53.333 %\nWill conduct sim at 50% duty anyways
.ic V(output)=8.46 V(input)=18 V(input_meas)=18 V(sw)=8.46
.lib C:\Users\frwalsh\OneDrive - Tesla\Documents\GitHub\AUV-Senior-Design\Frank\chum-bucket\Sims\CSD87331Q3D.lib
.backanno
.end
