* D:\AUV Capstone\AUV-Senior-Design\Mark\WPT Sims\AC Analysis.asc
V1 Vin 0 AC 24
L1 N004 0 5.8µ Rser=12m
L2 Vout 0 5.8µ Rser=12m
C1 N004 Vin 380n Rser=0.01 Lser=1n
C2 0 Vout 380n Rser=0.01 Lser=1n
R1 Vout 0 2.25
V2 Vin2 0 AC 24
L3 N001 0 5.8µ Rser=12m
L4 N002 0 5.8µ Rser=12m
C3 N001 Vin2 380n Rser=0.01 Lser=1n
C4 N002 Vout2 380n Rser=0.01 Lser=1n
R2 Vout2 0 2.25
V3 Vin3 0 AC 24
L5 N003 0 5.8µ Rser=12m
L6 Vout3 0 5.8µ Rser=12m
C5 N003 Vin3 380n Rser=0.01 Lser=1n
R3 Vout3 0 2.25
V4 Vin4 0 AC 24
L7 Vin4 0 5.8µ Rser=12m
L8 Vout4 0 5.8µ Rser=12m
C6 0 Vin4 380n Rser=0.01 Lser=1n
R4 Vout4 0 2.25
C7 0 Vout4 380n Rser=0.01 Lser=1n
K L1 L2 {k}
.ac oct 1000 1k 10000k
.step param k 0.1 0.9 0.1
K1 L3 L4 {k}
K3 L5 L6 {k}
K4 L7 L8 {k}
.backanno
.end
